US04367230
30 ml of anhydrous tetrahydrofuran and 1.05 g of triethylamine are added to 2.17 g of N-benzyloxycarbonyl-glycine, and 1.43 g of isobutyl chloroformate are added dropwise thereto at -15° C. under stirring. A solution of 1.96 g of N-ethyl-tryptamin (i.e., 3-(2-ethylamino)ethylindole) in 40 ml of anhydrous tetrahydrofuran is added dropwise to the mixture at the same temperature, and said mixture is stirred at 0° C. for one hour and further stirred at room temperature for 16 hours. After the reaction, the reaction mixture is evaporated to remove solvent. The residue (oil) is purified by silica gel chromatography (Solvent: ethyl acetate-chloroform (1:1). 4.0 g of N-ethyl-N-(N-benzyloxycarbonylglycyl)-tryptamine are thereby obtained as a colorless oil. Yield: 100%.

reactant | triethylamine | 1.05 g | C(C)N(CC)CC | C6H15N
reactant | N-benzyloxycarbonyl-glycine | 2.17 g | C(C1=CC=CC=C1)OC(=O)NCC(=O)O | C10H11NO4
reactant | isobutyl chloroformate | 1.43 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-ethyl-tryptamin | 1.96 g | C(C)NCCC1=CNC2=CC=CC=C12 | C12H16N2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N-ethyl-N-(N-benzyloxycarbonylglycyl)-tryptamine | 4.0 g, Yield: 100% | C(C)N(CCC1=CNC2=CC=CC=C12)C(CNC(=O)OCC1=CC=CC=C1)=O | C22H25N3O3
